US05688795
A mixture of 3-bromopropanol (10.5 mL, 116 mmol), 1-(2-methoxyphenyl)piperazine (21 g, 109.23 mmol), sodium iodide (16.4 g, 109 mmol), potassium carbonate (38 g, 275 mmol) in 300 mL of acetonitrile was heated at reflux for 3 hours. The mixture was cooled and filtered. The filtrate was washed with saturated sodium chloride, dried (MgSO4) and concentrated. The residue was purified by column chromatography eluting with 5% methanol/methylene chloride. Product fractions were combined and concentrated to give 3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-propanol (24.5 g, 97.86 mmol), m.p. 88°-89° C.

reactant | 3-bromopropanol | 116 mmol, 10.5 mL | BrCCCO | C3H7BrO
reactant | 1-(2-methoxyphenyl)piperazine | 109.23 mmol, 21 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium iodide | 109 mmol, 16.4 g | [I-].[Na+]
reactant | potassium carbonate | 275 mmol, 38 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | 3-[4-(2-methoxyphenyl)piperazin-1-yl]-1-propanol | 97.86 mmol, 24.5 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCO | C14H22N2O2
